US07985755B2
5-[1-(4-Methylbenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride (Example-009).
The benzylamine was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (75 mg; 0.27 mmol) and 4-methylbenzyl bromide (60 mg; 0.32 mmol) via Method BB to a solid, which was stirred in the presence of 4M HCl in dioxane (4 eq). Solids were filtered and rinsed once with ether to give title compound. (101 mg; 90% yield). 1HNMR (400 MHz, DMSO-d6) δ 12.8 (s, 1H), 11.0 (s, 1H), 8.82 (s, 1H), 8.23 (s, 1H), 7.69 (m, 2H), 7.5 (d, J=8.0 Hz, 2H), 7.25 (d, J=8.0 Hz, 2H), 4.91 (br s, 2H), 4.17 (m, 4H), 3.36 (br d, J=11.6 Hz, 2H), 2.85 (m, 2H), 2.33 (s, 3H), 2.2 (m, 1H), 1.79 (m, 4H). MS m/z (ESI) 378 (M+H)+.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.27 mmol, 75 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 4-methylbenzyl bromide | 0.32 mmol, 60 mg | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4 eq | O1CCOCC1 | C4H8O2
product | 5-[1-(4-Methylbenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine hydrochloride | 90% yield | Cl.CC1=CC=C(CN2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=C1 | InChI=1S/C22H27N5O.ClH/c1-15-5-7-16(8-6-15)13-27-11-9-17(10-12-27)14-28-19-4-2-3-18-20(19)21(23)26-22(24)25-18;/h2-8,17H,9-14H2,1H3,(H4,23,24,25,26);1H
